US07888349B2
Hydrogen chloride (25 mL of a 4 N solution in 1,4-dioxane) was added to a solution of tert-butyl 3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate in a 1:1 mixture of dichloromethane and diethyl ether (50 mL). The reaction was stirred overnight at ambient temperature; a precipitate formed. The precipitate was harvested via filtration and dried under reduce pressure to provide 9.66 g of 3-benzyloxy-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 3-benzyloxy-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C26H28N4O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3-benzyloxy-9,10,11,12-tetrahydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline | 9.66 g | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCCNC1 | C21H20N4O
